US07329660B2
1a) Triphenyl(pyridin-3-yl-methyl)phosphonium chloride
To an ice-cooled 2-phase mixture of 55.8 g (195 mmol) Na2CO3.10 H2O in 200 ml water and 100 ml toluene, 21.3 g (133 mmol) 3-chloromethylpyridine hydrochloride is added in portions. The mixture is stirred at 0° C. until a clear solution is obtained, the aqueous phase separated off, and the mixture extracted twice with 50 ml toluene. The toluene phases are dried (Na2SO4) and evaporated in the RE (10 mbar, 30° C.) to about half its original volume. To the yellowish solution, 68.1 g (259 mmol) triphenylphosphine is added and the mixture stirred for several days under a N2 atmosphere at 70° C. The title compound is precipitated off in the process. It is filtered off and washed with toluene and hexane; 1H-NMR (DMSO-6) 8.47 (m, 1HPy), 8.18 (sb, 1HPy), 7.91 (m, 3H), 7.72 (m, 12H), 7.37 (m, 1HPy), 7.26 (m, 1HPy), 5.33 (d, J=15 Hz, H2C); FAB-MS (M-Cl)+=354; an. calc. (C24H21NClP.0.17 H2O) C, 73.36%; H, 5.47%; N, 3.56%; Cl, 9.02%; P, 7.88%; H2O, 0.78%; meas. C, 73.11%; H, 5.43%; N, 3.82%; Cl, 9.49%; P, 7.98%; H2O, 0.77%.

reactant | Na2CO3 | 195 mmol, 55.8 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 3-chloromethylpyridine hydrochloride | 133 mmol, 21.3 g | Cl.ClCC=1C=NC=CC1
reactant | triphenylphosphine | 259 mmol, 68.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | water | 200 ml | O | H2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | Triphenyl(pyridin-3-yl-methyl)phosphonium chloride | [Cl-].C1(=CC=CC=C1)[P+](CC=1C=NC=CC1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C24H21NP.ClH/c1-4-12-22(13-5-1)26(23-14-6-2-7-15-23,24-16-8-3-9-17-24)20-21-11-10-18-25-19-21;/h1-19H,20H2;1H/q+1;/p-1
